US07749992B2
Isopropyl 5-[acetyl-(3,5-bistrifluoromethylbenzyl)amino]-8-chloro-7-methoxy-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate
Combine isopropyl-5-[acetyl-(3,5-bistrifluoromethylbenzyl)amino]-7-bromo-8-chloro-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate (0.050 g, 0.079 mmol), tris(dibenzylideneacetone)dipalladium (0) (0.0014 g, 0.0015 mmol), 2-di-tert-butylphosphino-2′,4′,6′-triisopropylbiphenyl (0.002 g, 0.0047 mmol), cesium carbonate (0.039 g, 0.119 mmol) and methanol (0.016 mL, 0.397 mmol) in toluene (1 mL) in a sealed tube and heat at 110° C. for 24 h. Dilute the cooled mixture with ethyl acetate (25 mL) and filter through Celite. Remove the filtrate solvent under reduced pressure and first purify the residue using chromatography on silica gel, eluting with hexanes/ethyl acetate (60:40), to provide the title compound as a white solid (0.017 g, 37%): ESI MS 581 (M+H).

reactant | isopropyl-5-[acetyl-(3,5-bistrifluoromethylbenzyl)amino]-7-bromo-8-chloro-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate | 0.079 mmol, 0.050 g | C(C)(C)OC(=O)N1C2=C(C(CCC1)N(CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C(C)=O)C=C(C(=C2)Cl)Br | C25H24BrClF6N2O3
reactant | 2-di-tert-butylphosphino-2′,4′,6′-triisopropylbiphenyl | 0.0047 mmol, 0.002 g | C(C)(C)(C)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C(C)(C)C | C29H45P
reactant | cesium carbonate | 0.119 mmol, 0.039 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | methanol | 0.397 mmol, 0.016 mL | CO | CH4O
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium | 0.0015 mmol, 0.0014 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | Isopropyl 5-[acetyl-(3,5-bistrifluoromethylbenzyl)amino]-8-chloro-7-methoxy-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate | 0.017 g, 37% | C(C)(=O)N(C1C2=C(N(CCC1)C(=O)OC(C)C)C=C(C(=C2)OC)Cl)CC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F | C26H27ClF6N2O4
